US07951794B2
A solution of 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone (600 mg, 2.61 mmol) and terephthalaldehyde (874 mg, 6.51 mmol) in ethanol (10 mL) and 5 N HCl in isopropanol (5 mL) is stirred at rt for 3 days. The reaction mixture is diluted with water and extracted with diethyl ether. The organic extract is washed with water and sat. aq. NaHCO3 solution and the solvent is evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 4:1 to give 4-[3-(5-ethyl-4-phenyl-thiophen-2-yl)-3-oxo-propenyl]-benzaldehyde (280 mg) as a yellow solid, LC-MS: tR=1.14 min, [M+1]+=347.14, 1H NMR (CDCl3): δ 10.05 (s, 1H), 7.95-7.88 (m, 2H), 7.84-7.77 (m, 3H), 7.52-7.35 (m, 5H), 2.96 (q, J=7.6 Hz, 2H), 1.35 (t, J=7.6 Hz, 3H).

reactant | 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone | 2.61 mmol, 600 mg | C(C)C1=C(C=C(S1)C(C)=O)C1=CC=CC=C1 | C14H14OS
reactant | terephthalaldehyde | 6.51 mmol, 874 mg | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | HCl | 5 N | Cl | ClH
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 4-[3-(5-ethyl-4-phenyl-thiophen-2-yl)-3-oxo-propenyl]-benzaldehyde | 280 mg | C(C)C1=C(C=C(S1)C(C=CC1=CC=C(C=O)C=C1)=O)C1=CC=CC=C1 | C22H18O2S
